US05919748
L-arginine (17.4 g, 0.1 mols) was dissolved in 100 ml of water in a three-necked round flask, and 100 ml of i-propanol were added thereto. Then, 32.6 g (0.1 mols) of octadecylglycidyl ether (made by Sakamoto Yakuhin Kogyo Co., Ltd.) were added dropwise thereto over a period of 30 minutes while being heat-refluxed and stirred. Further, the mixture was stirred under reflux for 3 hours. It was identified through TLC and gas chromatography that octadecylglycidyl ether disappeared. Thereafter, the resulting mixture was neutralized with 10.1 g (0.1 mols) of 36% hydrochloric acid. The reaction solution was concentrated under reduced pressure, and the residue was purified through silica-gel column chromatography (Kieselgel 60, eluent=mixture of chloroform, methanol and acetic acid at a ratio of 3:1:0.5) to give 21.2 g of N-(2-hydroxy-3-octadecyloxy)propyl-L-arginine hydrochloride (yield 4.2.3%).

reactant | L-arginine | 0.1 mols, 17.4 g | N[C@@H](CCCNC(N)=N)C(=O)O | C6H14N4O2
reactant | i-propanol | 100 ml | C(C)(C)O | C3H8O
reactant | octadecylglycidyl ether | 0.1 mols, 32.6 g | C(CCCCCCCCCCCCCCCCC)OCC1CO1 | C21H42O2
reactant | hydrochloric acid | 0.1 mols, 10.1 g | Cl | ClH
solvent | water | 100 ml | O | H2O
product | N-(2-hydroxy-3-octadecyloxy)propyl-L-arginine hydrochloride | 21.2 g, 2.3% | Cl.OC(C)C(CCCCCCCCCCCCCCC)OCCCN[C@@H](CCCNC(N)=N)C(=O)O | InChI=1S/C27H56N4O4.ClH/c1-3-4-5-6-7-8-9-10-11-12-13-14-15-19-25(23(2)32)35-22-17-21-30-24(26(33)34)18-16-20-31-27(28)29;/h23-25,30,32H,3-22H2,1-2H3,(H,33,34)(H4,28,29,31);1H/t23?,24-,25?;/m0./s1
